US08614239B2
Preparation of Intermediate 5-Amino-1-(4-bromo-2-fluoro-phenyl)-6,7-difluoro-4-hydroxy-1,3-dihydro-benzoimidazol-2-one (I-14a)
Intermediate I-14a was prepared from 5-amino-1-(4-bromo-2-fluoro-phenyl)-6,7-difluoro-4-methoxy-1,3-dihydro-benzoimidazol-2-one (I-12a: 1.7 g, 0.00438 mol) and borontribromide using procedures analogous to those used for the preparation of Intermediate I-13a in DCM (10.9 mL, 0.0109 mol) to afford 850 mg of the product (88% yield).

reactant | 5-amino-1-(4-bromo-2-fluoro-phenyl)-6,7-difluoro-4-methoxy-1,3-dihydro-benzoimidazol-2-one | 0.00438 mol, 1.7 g | NC1=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)Br)F)C(=C1F)F)OC | C14H9BrF3N3O2
reactant | DCM | 0.0109 mol, 10.9 mL | C(Cl)Cl | CH2Cl2
product | 5-Amino-1-(4-bromo-2-fluoro-phenyl)-6,7-difluoro-4-hydroxy-1,3-dihydro-benzoimidazol-2-one | 850 mg, 88% yield | NC1=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)Br)F)C(=C1F)F)O | C13H7BrF3N3O2
